US07893056B2
To a mixture of (2R)-3-cyclopentyl-2-(hydroxymethyl)-N-[(phenylmethyl)oxy]propanamide (22.5 g, 81 mmol) and triphenylphosphine (22.5 g, 97 mmol) in THF (800 mL) at 0° C. was added dropwise diisopropyl azodicarboxylate (18.9 mL, 97 mmol). The reaction mixture was maintained at 0° C. for 45 min and was then evaporated. Purification by chromatography on silica gel using an eluting system of hexane/EtOAc (95:5) provided (3R)-3-(cyclopentylmethyl)-1-[(phenylmethyl)oxy]-2-azetidinone (16.9 g, 81%). LCMS: (M+H)+: 260.1.

reactant | (2R)-3-cyclopentyl-2-(hydroxymethyl)-N-[(phenylmethyl)oxy]propanamide | 81 mmol, 22.5 g | C1(CCCC1)C[C@@H](C(=O)NOCC1=CC=CC=C1)CO | C16H23NO3
reactant | triphenylphosphine | 97 mmol, 22.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 97 mmol, 18.9 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 800 mL | C1CCOC1 | C4H8O
product | (3R)-3-(cyclopentylmethyl)-1-[(phenylmethyl)oxy]-2-azetidinone | 16.9 g, 81% | C1(CCCC1)C[C@H]1C(N(C1)OCC1=CC=CC=C1)=O | C16H21NO2
